US04230707
10-oxo-N-1H-tetrazol-5-yl-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide
A mixture of 10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid (1.0 g, 0.0041 mol) and 1,1'-carbonyldiimidazole (1.35 g, 0.0082 mol) in dimethylformamide (10 ml) is heated at 95°-100° C. with stirring under nitrogen for 1.5 hours. 5-Aminotetrazole monohydrate (0.42 g, 0.0041 mol) is added and the resulting mixture is heated at 100° C. for 1-5 hours. The precipitate is filtered off, washed with tetrahydrofuran and recrystallized from dimethylformamide to give the product (0.6 g.), mp 295°-296° C.

reactant | 10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.0041 mol, 1.0 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)C=CS2 | C11H6N2O3S
reactant | 1,1'-carbonyldiimidazole | 0.0082 mol, 1.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-Aminotetrazole monohydrate | 0.0041 mol, 0.42 g | O.NC1=NN=NN1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 10-oxo-N-1H-tetrazol-5-yl-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)NC3=NN=NN3)C=CS2 | C12H7N7O2S
